US04755212
Preparation of 2-chloro-6-methoxymethylaniline
A solution of 4.00 g (25.4 mmol) of 2-amino-3-chlorobenzyl alcohol in 30 ml of dry THF was cooled to -78° C., treated with 16.7 ml (26.7 mmol) of 1.60M n-butyllithium in hexane, warmed to 0°-5° C., treated with 3.61 g (25.4 mmol) of methyl iodide and heated at reflux for 5.5 hours. The solvent was removed by evaporation at reduced pressure. The residue was partitioned between 175 ml of ether and water, and the organic phase was separated and dried (MgSO4). The solvent was removed by evaporation at reduced pressure, and the residue was purified by HPLC eluting with ETOAc (5:95, v/v) to afford 1.1 g of the desired product as a pale brown oil. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | 2-amino-3-chlorobenzyl alcohol | 25.4 mmol, 4.00 g | NC1=C(CO)C=CC=C1Cl | C7H8ClNO
reactant | n-butyllithium | 26.7 mmol, 1.60M, 16.7 ml | C(CCC)[Li]
reactant | methyl iodide | 25.4 mmol, 3.61 g | CI | CH3I
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-chloro-6-methoxymethylaniline | 1.1 g | ClC1=C(N)C(=CC=C1)COC | C8H10ClNO
